US07674795B2
Carry out the procedure as in Example 6, starting from 900 mg of 4-(6-methoxy-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the preceding stage, and 1.55 mg of Raney Nickel in 50 ml of ethanol and 50 ml of tetrahydrofuran for 16 hours at 60° C. under a hydrogen pressure of 1 bar. After purification by making a paste in diisopropyl ether, we obtain 631 mg of 4-(6-methoxy-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine, in the form of a brown powder, with the following characteristics:

reactant | 4-(6-methoxy-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | 900 mg | COC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C1 | C21H15N3O2
catalyst | Raney Nickel | 1.55 mg | [Ni] | Ni
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(6-methoxy-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine | 631 mg | COC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C1 | C21H17N3O
